US09315493B2
Process 6: 1,1′-Carbonyldiimidazole (130 mg, 0.80 mmol) and 1,8-diazabicyclo[5.4.0]undeca-7-ene (122 mg, 0.80 mmol) were added to dichloromethane (4 mL) and tetrahydrofuran (4 mL) mixture solution of 2-{5-{[1-(5-ethoxypyrimidin-2-yl)-2-isopropyl-6-oxo-4-propyl-1,6-dihydropyrimidin-5-yl]methyl}pyridin-2-yl}-N′-hydroxybenzimidamide (212 mg, 0.40 mmol) and stirred for 3 hours at room temperature. Once the reaction is completed, 1 M hydrochloric acid solution was added to the reaction mixture, which was then extracted with chloroform. The organic layer was washed with water, dried over anhydrous sodium sulfate, and concentrated in vacuo. The obtained residues were subjected to silica gel column chromatography (chloroform/methanol=20:1) to give 3-{2-{5-{[1-(5-ethoxypyrimidin-2-yl)-2-isopropyl-6-oxo-4-propyl-1,6-dihydropyrimidin-5-yl]methyl}pyridin-2-yl}phenyl}-1,2,4-oxadiazol-5(4H)-one (201 mg, 91%) as white amorphous.

reactant | 1,1′-Carbonyldiimidazole | 0.80 mmol, 130 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1,8-diazabicyclo[5.4.0]undeca-7-ene | 0.80 mmol, 122 mg | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 2-{5-{[1-(5-ethoxypyrimidin-2-yl)-2-isopropyl-6-oxo-4-propyl-1,6-dihydropyrimidin-5-yl]methyl}pyridin-2-yl}-N′-hydroxybenzimidamide | 0.40 mmol, 212 mg | C(C)OC=1C=NC(=NC1)N1C(=NC(=C(C1=O)CC=1C=CC(=NC1)C1=C(C(N)=NO)C=CC=C1)CCC)C(C)C | C29H33N7O3
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 3-{2-{5-{[1-(5-ethoxypyrimidin-2-yl)-2-isopropyl-6-oxo-4-propyl-1,6-dihydropyrimidin-5-yl]methyl}pyridin-2-yl}phenyl}-1,2,4-oxadiazol-5(4H)-one | 201 mg, 91% | C(C)OC=1C=NC(=NC1)N1C(=NC(=C(C1=O)CC=1C=CC(=NC1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)C(C)C | C30H31N7O4
